US08809549B2
d) Bendamustine Isopropyl Ester
Bendamustine HCl×H2O (1 g, 2.83 mmol) was suspended iso-propanol (5 mL). Hydrochloric acid (0.3 mL; 8N in iso-propanol) was added and the stirred mixture was heated to reflux temperature for 5 h. After that the product solution was added to potassium bicarbonate (0.6 g) in RO-water (50 mL); final pH value was between 7 and 8. An oil forms. The emulsion was extracted twice with ethyl acetate (30+20 mL), the combined organic extracts were dried over sodium sulphate and concentrated under reduced pressure with a rotary evaporator (0.9 g, crystalline, crude material). The solid was slurried with methyl-tertiary butyl-ether (5 mL), isolated by filtration, washed with cold methyl-tertiary butyl-ether (2×0.8 mL) and dried in the fumehood. Yield: 0.47 g.

reactant | Bendamustine HCl | CN1C=2C=CC(=CC2N=C1CCCC(=O)O)N(CCCl)CCCl.Cl
reactant | Hydrochloric acid | 8N, 0.3 mL | Cl | ClH
reactant | potassium bicarbonate | 0.6 g | C([O-])(O)=O.[K+]
reactant | iso-propanol | 5 mL | C(C)(C)O | C3H8O
solvent | water | 50 mL | O | H2O
solvent | H2O | 2.83 mmol, 1 g | O | H2O
product | Bendamustine Isopropyl Ester | CC(C)OC(=O)CCCC1=NC2=C(N1C)C=CC(=C2)N(CCCl)CCCl | C19H27Cl2N3O2
